US05231101
8-Methylsulfonyl-5,6-dihydro-1H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one (1 g) was dissolved in 30 ml of methylene chloride, followed by the dropwise gradual addition of a Grignard reagent under ice cooling. The Grignard reagent had been prepared from 0.07 g of N-methyl-4-chloropiperidine, 0.012 g of magnesium and 10 ml of THF. After the resultant mixture was stirred for 1 hour at the same temperature, it was stirred for additional 1 hour at room temperature. The reaction mixture was then treated in a similar manner to Referential Example 2, whereby 0.82 g of the target compound, 8-methylsulfonyl-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol was obtained (yield: 61%).

reactant | 8-Methylsulfonyl-5,6-dihydro-1H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 1 g | CS(=O)(=O)C=1C=CC2=C(CCC3=C(NCC=C3)C2=O)C1 | C15H15NO3S
reactant | N-methyl-4-chloropiperidine | 0.07 g | CN1CCC(CC1)Cl | C6H12ClN
reactant | magnesium | 0.012 g | [Mg] | Mg
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 8-methylsulfonyl-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | yield: 61% | CS(=O)(=O)C=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CCN(CC2)C)C1 | C21H26N2O3S
